US04612376
To a solution of 6-(3,4-dimethoxyphenyl)-1-(2,3-epoxypropyl)-3-methyl-2,4(1H,3H)-pyrimidinedione (0.6 g) in ehtanol (20 ml) was added tert-butylamine (2 ml). The mixture was refluxed for 2.5 hours and evaporated in vacuo. The resulting syrup was triturated in a mixture of diethyl ether and diisopropyl ether to give 1-(3-tert-butylamino-2-hydroxy-1-propyl)-6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)pyrimidinedione (0.66 g).

reactant | 6-(3,4-dimethoxyphenyl)-1-(2,3-epoxypropyl)-3-methyl-2,4(1H,3H)-pyrimidinedione | 0.6 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1CC1CO1)=O)C)=O | C16H18N2O5
reactant | tert-butylamine | 2 ml | C(C)(C)(C)N | C4H11N
product | 1-(3-tert-butylamino-2-hydroxy-1-propyl)-6-(3,4-dimethoxyphenyl)-3-methyl-2,4(1H,3H)pyrimidinedione | 0.66 g | C(C)(C)(C)NCC(CN1C(N(C(C=C1C1=CC(=C(C=C1)OC)OC)=O)C)=O)O | C20H29N3O5
